US04889851
To a solution of 2-(4-chlorophenyl)-4-methyl-6-(N-methylamino)-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (55 mg) in dry THF (2 ml) was added a 1.5M solution of n-butyl lithium in n-Hexane (0.16 ml) at -78° C. The mixture was stirred at 0° C. for 30 minutes and added methyl iodide (0.05 ml) at the same temperature. After the mixture was stirred at 0° C. for 30 minutes, water was added. The mixture was extracted two times with ethyl acetate and the combined organic layers were washed with water and brine and dried over MgSO4. After the solvent was evaporated under reduced pressure, the residue was purified by preparative thin layer chromatography (eluted with a mixture of benzene and acetone (9:1) to give 2-(4-chlorophenyl)-6-(N,N-dimethylamino)-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (8 mg) as colorless powder.

reactant | 2-(4-chlorophenyl)-4-methyl-6-(N-methylamino)-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 55 mg | ClC1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)NC)(=O)=O | C15H14ClN3O3S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | methyl iodide | 0.05 ml | CI | CH3I
reactant | water | O | H2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | n-Hexane | 0.16 ml | CCCCCC | C6H14
product | 2-(4-chlorophenyl)-6-(N,N-dimethylamino)-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 8 mg | ClC1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)N(C)C)(=O)=O | C16H16ClN3O3S
